US04442115
A stirred solution of 1-benzyl-3'-butyryl-2'-hydroxy-5'-methyl-1H-tetrazole-5-carboxanilide in dichloromethane (75 ml), heated at reflux, was treated with anhydrous aluminium chloride (2.2 g) over a period of 15 minutes. After heating and stirring for a further hour, the mixture was cooled and treated with aqueous hydrochloric acid (2 N; 50 ml). The resulting suspension was heated at reflux with stirring for 15 minutes and then cooled. The precipitated solid was filtered off and combined with a residue which was subsequently obtained by evaporation of the dichloromethane layer of the filtrate. This combined solid was digested in aqueous sodium carbonate solution (2 N) at 90° C., then filtered to remove insoluble material and acidified by treatment with concentrated hydrochloric acid. Recrystallisation from a mixture of dimethylformamide and water gave 3'-butyryl-2'-hydroxy-5'-methyltetrazole-5-carboxanilide (0.78 g), m.p. 231°-233° C. (with decomposition).

reactant | 1-benzyl-3'-butyryl-2'-hydroxy-5'-methyl-1H-tetrazole-5-carboxanilide | C(C1=CC=CC=C1)N1N=NN=C1C(=O)NC1=C(C(=CC(=C1)C)C(CCC)=O)O | C20H21N5O3
reactant | aluminium chloride | 2.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2 N, 50 ml | Cl | ClH
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
product | 3'-butyryl-2'-hydroxy-5'-methyltetrazole-5-carboxanilide | 0.78 g | C(CCC)(=O)C=1C(=C(NC(=O)C2=NN=NN2)C=C(C1)C)O | C13H15N5O3
